US07521425B2
Step 1: 3-{2-[2-(2-Hydroxy-ethoxy)-ethoxy]-ethoxy}-propionic acid tert-butyl ester
Na metal (catalytic) was added to a stirring solution of acrylic acid tert-butyl ester (6.7 mL, 46 mmol), and 2-[2-(2-hydroxy-ethoxy)-ethoxy]-ethanol (20.7 g, 138 mmol) in THF (100 mL) at 0° C. and the mixture was stirred overnight. Solvent was removed and the remaining oil dissolved in EtOAc (100 mL). The organic layer was washed with water (3×50 mL), and dried over Na2SO4 and the solvent removed in vacuo to give an oil which corresponds to the title compound that would be used as is for the next step. (M+1)=279.

reactant | acrylic acid tert-butyl ester | 46 mmol, 6.7 mL | C(C)(C)(C)OC(C=C)=O | C7H12O2
reactant | 2-[2-(2-hydroxy-ethoxy)-ethoxy]-ethanol | 138 mmol, 20.7 g | OCCOCCOCCO | C6H14O4
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 3-{2-[2-(2-Hydroxy-ethoxy)-ethoxy]-ethoxy}-propionic acid tert-butyl ester | C(C)(C)(C)OC(CCOCCOCCOCCO)=O | C13H26O6
